US08349849B2
(R)-4-(6-Methoxyquinazolin-2-yl)-4-methyloxazolidin-2-one
(R)-2-Amino-2-(6-methoxy-quinazolin-2-yl)-propan-1-ol (3.10 g, 13.3 mmol) was dissolved in methylene chloride (60 mL, 900 mmol), followed by N,N-diisopropylethylamine (6.94 mL, 39.9 mmol). The mixture was then cooled down to −78° C., and triphosgene (4.34 g, 14.6 mmol) was added in small portions over for 1 hour. The reaction mixture was then warmed up to 23° C. gradually and stirred for additional for 3 hours. Quenched with K2CO3 (sat), and organic layer was separated. The aqueous layer was extracted with DCM (2×20 mL) and combined organic layers were washed with water, brine and dried over Na2SO4. The crude product was then purified via chromatography (SiO2, 40 g, 0-10% MeOH/DCM) (1.78 g, 51%). 1H NMR (CHLOROFORM-d) δ: 9.29 (s, 1H), 7.90 (d, J=9.4 Hz, 1H), 7.58 (dd, J=9.1, 2.6 Hz, 1H), 7.16 (d, J=2.6 Hz, 1H), 6.29 (br. s., 1H), 5.18 (d, J=8.7 Hz, 1H), 4.49 (d, J=8.7 Hz, 1H), 3.97 (s, 3H), 1.76 (s, 3H). MS (M+1): 260.10.

reactant | (R)-2-Amino-2-(6-methoxy-quinazolin-2-yl)-propan-1-ol | 13.3 mmol, 3.10 g | N[C@](CO)(C)C1=NC2=CC=C(C=C2C=N1)OC | C12H15N3O2
reactant | methylene chloride | 900 mmol, 60 mL | C(Cl)Cl | CH2Cl2
reactant | N,N-diisopropylethylamine | 39.9 mmol, 6.94 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | triphosgene | 14.6 mmol, 4.34 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
product | (R)-4-(6-Methoxyquinazolin-2-yl)-4-methyloxazolidin-2-one | COC=1C=C2C=NC(=NC2=CC1)[C@]1(NC(OC1)=O)C | C13H13N3O3
